US06969730B2
ethyl 4′-hydroxy-1,1′-biphenyl-3-carboxylate
4-Iodophenol and 3-ethoxycarbonylphenylboronic acid were processed as described in Example 136A, except that the reaction was done overnight at room temperature and the chromatography was conducted twice with 50% CH2Cl2/hexanes followed by a gradient of 0 to 1% MeOH/CH2Cl2 to provide the title compound as a white powder (71% yield). 1HNMR (300 MHz, d6-DMSO) δ 1.34 (t, 3 H), 4.34 (q, 2 H), 6.89 (d, 2 H), 7.50-7.59 (m, 3H), 7.83-7.89 (m, 2 H), 8.11 (dd, 1 H), 9.62 (s, 1 H).

reactant | 4-Iodophenol | IC1=CC=C(C=C1)O | C6H5IO
reactant | 3-ethoxycarbonylphenylboronic acid | C(C)OC(=O)C=1C=C(C=CC1)B(O)O | C9H11BO4
solvent | MeOH CH2Cl2 | CO.C(Cl)Cl
product | ethyl 4′-hydroxy-1,1′-biphenyl-3-carboxylate | 71% yield | OC1=CC=C(C=C1)C1=CC(=CC=C1)C(=O)OCC | C15H14O3
